### PR TITLE
[Merged by Bors] - feat(RingTheory/GradedAlgebra): define homogeneous submodule

### PR DESCRIPTION
**Pull request by jjaassoonn**
and redefine homogeneous ideal as a homogeneous submodule

rename `SetLike.Homogeneous` to `SetLike.IsHomogeneousElem`
introduced `DirectSum.SetLike.Homogeneous` to mean a set $S$ is homogeneous iff for all $s \in S$, all of its projection $s_i \in S$ as well.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 1]
```diff
@@ -0,0 +1,108 @@
...
+
+For any `p : Submodule A M`:
+* `Submodule.IsHomogeneous ℳ p`: The property that a submodule is closed under `GradedModule.proj`.
+* `HomogeneousSubmodule 𝒜 ℳ`: The structure extending submodules which satisfy
+  `Submodule.IsHomogeneous`.
+
+## Implementation notes
+
+The **notion** of homogeneous submodule does not rely on a graded ring, only a decomposition of the
+the module. However, most interesting properties of homogeneous submodules do reply on the base ring
```
Comment (kbuzzard) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:25]:
```suggestion
the module. However, most interesting properties of homogeneous submodules do rely on the base ring
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 2]
```diff
@@ -0,0 +1,108 @@
...
+is a graded ring. For technical reasons, we make `HomogeneousSubmodule` depend on a graded ring.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:26]:
```suggestion
being a graded ring. For technical reasons, we make `HomogeneousSubmodule` depend on a graded ring.
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 3]
```diff
@@ -0,0 +1,108 @@
...
+For example, if the definition of a homogeneous submodule does not depend on a graded ring, the
+instance that `HomogeneousSubmodule` is a complete lattice can not be synthesized due to
```
Comment (kbuzzard) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:28]:
```suggestion
instance that `HomogeneousSubmodule` is a complete lattice cannot be synthesized due to
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 4]
```diff
@@ -0,0 +1,108 @@
...
+open SetLike DirectSum Pointwise Set
+
+variable {ιA ιM σA σM A M : Type*}
+
+variable [Semiring A] [AddCommMonoid M] [Module A M]
+
+section HomogeneousDef
+
+/-- An `p : Submodule A M` is homogeneous if for every `m ∈ p`, all homogeneous components
+  of `m` are in `I`. -/
```
Comment (kbuzzard) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:45]:
```suggestion
  of `m` are in `p`. -/
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 5]
```diff
@@ -0,0 +1,108 @@
...
+
+variable {𝒜 ℳ} in
+theorem HomogeneousSubmodule.isHomogeneous (I : HomogeneousSubmodule 𝒜 ℳ) :
+    I.toSubmodule.IsHomogeneous ℳ :=
+  I.is_homogeneous'
+
+theorem HomogeneousSubmodule.toSubmodule_injective :
+    Function.Injective
+      (HomogeneousSubmodule.toSubmodule : HomogeneousSubmodule 𝒜 ℳ → Submodule A M) :=
+  fun ⟨x, hx⟩ ⟨y, hy⟩ => fun (h : x = y) => by simp [h]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:81]: Isn't \mapsto the mathlib style?

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]: indeed

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 6]
```diff
@@ -0,0 +1,108 @@
...
+  `Submodule.IsHomogeneous`.
+
+## Implementation notes
+
+The **notion** of homogeneous submodule does not rely on a graded ring, only a decomposition of the
+the module. However, most interesting properties of homogeneous submodules do rely on the base ring
+being a graded ring. For technical reasons, we make `HomogeneousSubmodule` depend on a graded ring.
+For example, if the definition of a homogeneous submodule does not depend on a graded ring, the
+instance that `HomogeneousSubmodule` is a complete lattice cannot be synthesized due to
+synthesation order.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:29]: Is this instance in a later PR? This sounds fishy to me.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 7]
```diff
@@ -0,0 +1,108 @@
...
+
+variable [Semiring A] [AddCommMonoid M] [Module A M]
+
+section HomogeneousDef
+
+/-- An `p : Submodule A M` is homogeneous if for every `m ∈ p`, all homogeneous components
+  of `m` are in `p`. -/
+def Submodule.IsHomogeneous (p : Submodule A M) (ℳ : ιM → σM)
+    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M] [Decomposition ℳ] : Prop :=
+  ∀ (i : ιM) ⦃m : M⦄, m ∈ p → (DirectSum.decompose ℳ m i : M) ∈ p
```
Comment (eric-wieser) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:48]: I wonder if this makes sense as
```suggestion
def AddSubmonoidClass.IsHomogeneous (p : σM) (ℳ : ιM → σM)
    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M] [Decomposition ℳ] : Prop :=
  ∀ (i : ιM) ⦃m : M⦄, m ∈ p → (DirectSum.decompose ℳ m i : M) ∈ p
```

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:48]: Let me try

Comment (eric-wieser) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:48]: Yes, it's fine to specialize `HomogeneousSubmodule`

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]: But then the downstream `Ideal.IsHomogeneous` need to be changed as well.
```lean

variable [Semiring A]
variable [SetLike σ A] [AddSubmonoidClass σ A] (𝒜 : ι → σ)
variable [DecidableEq ι] [AddMonoid ι] [GradedRing 𝒜]
variable (I : Ideal A)

/-- An `I : Ideal A` is homogeneous if for every `r ∈ I`, all homogeneous components
  of `r` are in `I`. -/
def Ideal.IsHomogeneous : Prop := AddSubmonoidClass.IsHomogeneous 𝒜 I
```
for now `Ideal` is not `σ`. Not sure if this is direction we want

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]:
```lean
/-- An `p : Submodule A M` is homogeneous if for every `m ∈ p`, all homogeneous components
  of `m` are in `p`. -/
def AddSubmonoidClass.IsHomogeneous {P : Type*} [SetLike P M] [AddSubmonoidClass P M]
    (ℳ : ιM → σM) (p : P)
    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M] [Decomposition ℳ] : Prop :=
  ∀ (i : ιM) ⦃m : M⦄, m ∈ p → (DirectSum.decompose ℳ m i : M) ∈ p
```
Maybe this is better?

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:29]: So far I think the crux is that `Submodule.smul_homogeneous_element_mem_of_mem` currently needs a choice of `𝒜` for the proof to go through. Is it really the case that the lattice structure is only well-formed if the ring is graded?

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:29]: Does the following example works? 
let $A$ be an $R$-algebra, consider $A[X,Y]$ to be an $R[S, T]$ module with this action: $S$ acts on $A[X, Y]$ by multiplication by $X$ and $T$ by $Y$.  Give $A[X,Y]$ the normal grading $\deg X = \deg Y = 1$, and consider the homogeneous hull $M$ of the submodule spanned by ${X}$

- if $\deg S =\deg T = 1$, then every homogenous polynomial is in $M$, so $X^2 + X^3$ is not in $M$
- if $\deg S = 1$ and $\deg T = 2$, then $X^2 + X^3 = S X + S^2 X$ since $X$ is in $M$ then $SX$ and $S^2 X$ is in $M$ as well.

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:29]: Let me investigate

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:29]: I think yes? Consider $M := A[X, Y]$ over $A[X]$. So the complete lattice is based on the claim that if $S \subseteq M$ is a set of homogeneous element, then span of $S$ is a homogeneous submodule. Suppose only $M$ has a grading $\deg X = \deg Y = 1$ and every element in $A[X]$ has degree $0$. Then $XY \in M$ is homogeneous, but its span is not homogeneous because $(Y + 1) \cdot XY$ is in the span? Does this work?

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean (hunk 7 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]: I will open a separate PR for `SetLike.IsHomogeneous` and `SetLike.isHomogeneousElement`

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 8]
```diff
@@ -0,0 +1,107 @@
...
+    x ∈ p ↔ ∀ i, (decompose ℳ x i : M) ∈ p :=
+  AddSubmonoidClass.IsHomogeneous.mem_iff ℳ _ hp
+
+/-- For any `Semiring A`, we collect the homogeneous submodule of `A`-modules into a type. -/
+structure HomogeneousSubmodule (𝒜 : ιA → σA) (ℳ : ιM → σM)
+    [DecidableEq ιA] [AddMonoid ιA] [SetLike σA A] [AddSubmonoidClass σA A] [GradedRing 𝒜]
+    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M] [Decomposition ℳ]
+    [VAdd ιA ιM] [GradedSMul 𝒜 ℳ]
+    extends Submodule A M where
+  is_homogeneous' : toSubmodule.IsHomogeneous ℳ
```
Comment (erdOne) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:65]: Do we want `AddSubmonoidClass` and `SMulMemClass` on this?

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 9]
```diff
@@ -0,0 +1,107 @@
...
+theorem HomogeneousSubmodule.ext' {I J : HomogeneousSubmodule 𝒜 ℳ}
+    (h : ∀ i, ∀ x ∈ ℳ i, x ∈ I ↔ x ∈ J) :
+    I = J := by
+  ext
+  rw [I.isHomogeneous.mem_iff, J.isHomogeneous.mem_iff]
+  apply forall_congr'
+  exact fun i ↦ h i _ (decompose ℳ _ i).2
+
+@[simp]
+theorem HomogeneousSubmodule.mem_iff {I : HomogeneousSubmodule 𝒜 ℳ} {x : M} :
```
Comment (erdOne) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:103]:
```suggestion
theorem HomogeneousSubmodule.mem_toSubmodule_iff {I : HomogeneousSubmodule 𝒜 ℳ} {x : M} :
```

File: Mathlib/Algebra/GradedMonoid.lean [hunk 10]
```diff
@@ -649,27 +649,29 @@ section HomogeneousElements
 variable {R S : Type*} [SetLike S R]
 
 /-- An element `a : R` is said to be homogeneous if there is some `i : ι` such that `a ∈ A i`. -/
-def SetLike.Homogeneous (A : ι → S) (a : R) : Prop :=
+def SetLike.IsHomogeneousElem (A : ι → S) (a : R) : Prop :=
```
Comment (erdOne) [inline Mathlib/Algebra/GradedMonoid.lean:652]: It is not possible to add deprecation aliases because something else took the name, but can you add the aliases for the rest of the theorems (if applicable) and document this rename in the PR message? Thanks!

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean (hunk 8 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:65]: Yes, these two are required in `DirectSum.Decomposition`

File: Mathlib/Algebra/GradedMonoid.lean (hunk 10 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/GradedMonoid.lean:652]: done

File: Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Topology.lean [hunk 11]
```diff
@@ -56,6 +56,8 @@ attribute [instance] ProjectiveSpectrum.isPrime
 
 namespace ProjectiveSpectrum
 
+instance (x : ProjectiveSpectrum 𝒜) : Ideal.IsPrime x.asHomogeneousIdeal.toSubmodule := x.isPrime
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Topology.lean:59]:
```suggestion
instance (x : ProjectiveSpectrum 𝒜) : Ideal.IsPrime x.asHomogeneousIdeal.toIdeal := x.isPrime
```
Does this not work?

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:65]: I meant `SMulMemClass (HomogeneousSubmodule 𝒜 ℳ) A M`, which I don't think is present in the current PR?

Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:65]: done

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean [hunk 12]
```diff
@@ -56,49 +57,39 @@ variable (I : Ideal A)
 
 /-- An `I : Ideal A` is homogeneous if for every `r ∈ I`, all homogeneous components
   of `r` are in `I`. -/
-def Ideal.IsHomogeneous : Prop :=
-  ∀ (i : ι) ⦃r : A⦄, r ∈ I → (DirectSum.decompose 𝒜 r i : A) ∈ I
+def Ideal.IsHomogeneous : Prop := Submodule.IsHomogeneous I 𝒜
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean]: good point changed

**Review by erdOne — APPROVED** [review]
LGTM
Will wait if @eric-wieser wants to give a final look.
